US07671063B2
A mixture of 2-chloro-6-nitro-benzenesulfonamide (500 mg, 2.10 mmol), DMSO (3 ml), diethyl amine (10 ml of 2 M solution in THF), Bu4NHSO4 (34 mg, 0.1 mmol) and KF (58 mg, 1.0 mmol) is heated in an autoclave at 70° C. for 16 h. The mixture is diluted with water and extracted with CH2Cl2. The solvent is removed and the residue subjected to chromatography (SiO2, TBME/cyclohexane 1:9→TBME) to give 2-dimethylamino-6-nitro-benzenesulfonamide as a colorless solid.

reactant | 2-chloro-6-nitro-benzenesulfonamide | 2.10 mmol, 500 mg | ClC1=C(C(=CC=C1)[N+](=O)[O-])S(=O)(=O)N | C6H5ClN2O4S
reactant | DMSO | 3 ml | CS(=O)C | C2H6OS
reactant | diethyl amine | 2 M, 10 ml | C(C)NCC | C4H11N
reactant | KF | 1.0 mmol, 58 mg | [F-].[K+]
catalyst | Bu4NHSO4 | 0.1 mmol, 34 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
solvent | water | O | H2O
product | 2-dimethylamino-6-nitro-benzenesulfonamide | CN(C1=C(C(=CC=C1)[N+](=O)[O-])S(=O)(=O)N)C | C8H11N3O4S
